US05158946
b) Diphenylmethyl 3-(6-Methyl-2-oxo-2H-pyran-4-yl-thio) -7β-phenylacetamidoceph-3-em-4-carboxylate 1-oxide
A stirred solution of diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate and diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-2-em-4-carboxylate (763 mg) in dichloromethane (10 ml) was cooled in an ice bath, and a solution of m-chloroperbenzoic acid (211 mg of 85%) in dichloromethane (5 ml) was added. The mixture was stirred at 0° for 40 mins. and then washed with sodium bicarbonate solution, sodium metabisulphite solution, water and brine. The solution was dried over magnesium sulphate and evaporated. The title compound (581 mg) was isolated by column chromatography of the residue using gradient elution (Kieselgel 1:1 hexane:ethyl acetate going to neat ethyl acetate). υmax (CHCl3) 3390, 1805, 1720 cm-1, δH (CDCl3) 2.14 (3H, s) 3.36 (1H, d, J 18.1Hz), 3.60 (2H, s), 3.75 (1H, d, J 18.2Hz), 4.51 (1H, d, J 4.8Hz), 5.72 (1H, s), 5.95 (1H, s) 6.13 (1H, dd, J 4.8 and 9.7Hz), 6.94 (1H, d, J 9.7Hz), 6.97 (1H, s), 7.2-7.4 (15H, m).

reactant | diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate | CC1=CC(=CC(O1)=O)SC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C34H28N2O6S2
reactant | diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-2-em-4-carboxylate | 763 mg | CC1=CC(=CC(O1)=O)SC1=CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C34H28N2O6S2
reactant | m-chloroperbenzoic acid | 211 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 3-(6-Methyl-2-oxo-2H-pyran-4-yl-thio) -7β-phenylacetamidoceph-3-em-4-carboxylate 1-oxide | 581 mg | CC1=CC(=CC(O1)=O)SC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C34H28N2O7S2
